US08404672B2
A solution of 3-(4-(bromomethyl)phenyl)-5-(3-(pyridin-2-yl)-4-(trifluoromethyl)-isoxazol-5-yl)-1,2,4-oxadiazole (2.52 g, 5.59 mmol) and tert-butyl azetidine-3-carboxylate, acetic acid (1.82 g, 8.39 mmol) in N,N-dimethylformamide (40 mL) cooled with an ice-water bath was added triethylamine (2.34 mL, 16.8 mmol) drop-wise. The reaction mixture was stirred for 30 minutes, diluted with ethyl acetate (350 mL), washed with a 10% aqueous solution of lithium chloride (2×100 mL), washed with water (100 mL), washed with brine (100 mL), and dried over anhydrous sodium sulfate. Concentration gave a crude product which was triturated with methanol. The resulting solid was collected by vacuum filtration. The filtrate was concentration and purified by silica gel chromatography (eluting with Hexanes/ethyl acetate-4/1) to yield additional product. The material was combined to give tert-butyl 1-(4-(5-(3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate (2.46 g, 83% yield).

reactant | 3-(4-(bromomethyl)phenyl)-5-(3-(pyridin-2-yl)-4-(trifluoromethyl)-isoxazol-5-yl)-1,2,4-oxadiazole | 5.59 mmol, 2.52 g | BrCC1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=NC=CC=C1)C(F)(F)F | C18H10BrF3N4O2
reactant | tert-butyl azetidine-3-carboxylate | N1CC(C1)C(=O)OC(C)(C)C | C8H15NO2
reactant | acetic acid | 8.39 mmol, 1.82 g | C(C)(=O)O | C2H4O2
reactant | triethylamine | 16.8 mmol, 2.34 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 350 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 1-(4-(5-(3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)benzyl)azetidine-3-carboxylate | 2.46 g, 83% yield | N1=C(C=CC=C1)C1=NOC(=C1C(F)(F)F)C1=NC(=NO1)C1=CC=C(CN2CC(C2)C(=O)OC(C)(C)C)C=C1 | C26H24F3N5O4
